US05068337
4-(2,3-Dichlorophenyl)-1,4-dihydro-2-methyl-6-(2-[2-methyl(1-imidazolyl)]ethyl)pyridine-3,5-dicarboxylic acid, dimethyl ester.
A mixture of 4-(2,3-dichlorophenyl)-1,4-dihydro-6-methyl-2-(2-dimethylaminoethyl)pyridine 3,5-dicarboxylic acid dimethyl ester (2.14 g, 5mmol), 2-methylimidazole (1.64 g, 20mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.75 g, 5mmol) and chlorobenzene (50ml) was heated at reflux for 24hours. The solution was cooled, diluted with chloroform (25ml), washed with water (100ml), dried and evaporated. The residue was chromatographed on silica gel (50 g, Act I) using chloroform-methanol as eluent to give the title compound. This was suspended in methanol (10ml) and acidified by addition of maleic acid (0.5 g, 5% excess) to give a clear solution which was then diluted with ether (10ml) to precipitate the crystalline maleate salt 1.65 g mp 197°-198°.

reactant | 4-(2,3-dichlorophenyl)-1,4-dihydro-6-methyl-2-(2-dimethylaminoethyl)pyridine 3,5-dicarboxylic acid dimethyl ester | 5mmol, 2.14 g | COC(=O)C1=C(NC(=C(C1C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)CCN(C)C | C20H24Cl2N2O4
reactant | 2-methylimidazole | 20mmol, 1.64 g | CC=1NC=CN1 | C4H6N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5mmol, 0.75 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | chlorobenzene | 50ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chloroform | 25ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2,3-Dichlorophenyl)-1,4-dihydro-2-methyl-6-(2-[2-methyl(1-imidazolyl)]ethyl)pyridine-3,5-dicarboxylic acid, dimethyl ester | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)CCN1C(=NC=C1)C)C)C(=O)OC | C22H23Cl2N3O4
